US04931463
(M)(d) 1.5 g of (3S,4S,6R)-tetrahydro-3-hexyl-4-hydroxy-6-undecyl-2H-pyran-2-one were dissolved in 8 ml of DMF. 0.85 g of t-butyldimethylchlorosilane in 4 ml of DMF were then added dropwise. The mixture was stirred for 48 hours. The reaction mixture was poured in to 100 ml of ether and washed with 1N hydrochloric acid. The organic phase was dried, filtered and evaporated. The material obtained was chromatographed on silica gel. There were obtained 1.26 g of (3S,4S,6R)-tetrahydro-3-hexyl-4-[(t-butyldimethylsilyl)oxy]-6-undecyl-2H-pyran-2-one, MS: 411 (M+ -t-butyl).

reactant | (3S,4S,6R)-tetrahydro-3-hexyl-4-hydroxy-6-undecyl-2H-pyran-2-one | 1.5 g | C(CCCCC)[C@@H]1C(O[C@@H](C[C@@H]1O)CCCCCCCCCCC)=O | C22H42O3
reactant | t-butyldimethylchlorosilane | 0.85 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | ether | 100 ml | CCOCC | C4H10O
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | (3S,4S,6R)-tetrahydro-3-hexyl-4-[(t-butyldimethylsilyl)oxy]-6-undecyl-2H-pyran-2-one | 1.26 g | C(CCCCC)[C@@H]1C(O[C@@H](C[C@@H]1O[Si](C)(C)C(C)(C)C)CCCCCCCCCCC)=O | C28H56O3Si
